US05728842
(iii) Methyl 4-[(2-n-Butyl-5-formyl-4-iodo-1H-imidazol-5-yl)methyl]-1-napthalene carboxylate
A suspension of 29.53 g (0.214 mol) of powdered potassium carbonate, 60.00 g (0.214 mol) of 2-butyl-4-iodoimidazole-5-carboxaldehyde, and 65.68 g (0.235 mol) of methyl 4-bromomethylnaphthalene-1-carboxylate (E. A. Dixon, A. Fischer, and F. P. Robinson, Can. J. Chem. 59, 2629 (1981)) in 600 ml of dimethylformamide was stirred for 5 hours under argon at 70° C. An additional 6.56 g (0.0235 mol) of the bromomethyl ester was added and the suspension was stirred an additional 15 hours at 70° C. The mixture was poured into water and the solid which separated was collected by filtration, washed with water, and triturated several times with 250 ml of boiling methanol to give 86.8 g (85%) of a solid; mp 177.5°-179° C.

reactant | potassium carbonate | 0.214 mol, 29.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-butyl-4-iodoimidazole-5-carboxaldehyde | 0.214 mol, 60.00 g | C(CCC)C=1NC(=C(N1)I)C=O | C8H11IN2O
reactant | methyl 4-bromomethylnaphthalene-1-carboxylate | 0.235 mol, 65.68 g | BrCC1=CC=C(C2=CC=CC=C12)C(=O)OC | C13H11BrO2
reactant | water | O | H2O
solvent | dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
product | Methyl 4-[(2-n-Butyl-5-formyl-4-iodo-1H-imidazol-5-yl)methyl]-1-napthalene carboxylate | 86.8 g, 85% | C(CCC)C1NC(C(=N1)I)(C=O)CC1=CC=C(C2=CC=CC=C12)C(=O)OC | C21H23IN2O3
